US07176242B2
N-{(1S,2R)-1(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-furylmethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride
To a stirred solution of 3-{[(2-furylmethyl)(methyl)amino]methyl}-5-methylbenzoic acid (170 mg, 0.66 mmol) in methylene chloride (3 mL) is added HBTU (375 mg, 0.99 mmol), HOBt (134 mg, 0.99 mmol), and N,N-diisopropylethylamine (0.334 mL, 1.98 mmol), followed by (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method in EXAMPLE SP-272 (269 mg, 0.66 mmol), and the reaction mixture is stirred for 12 h at room temperature. The reaction mixture is diluted with methylene chloride, washed with water, and saturated sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 10% methanol/chloroform) affords the title compound as the free base. The compound is dissolved in methanol (2 mL), and to this solution is added hydrochloric acid (5 mL, 4 N dioxane, 20 mmol). The reaction mixture is stirred for 1 h at room temperature. The reaction mixture is then diluted with ethyl ether (10 mL). The precipitate that is formed is collected by filtration to provide the title compound. ESI MS m/z 576 [M+H]+.

reactant | 3-{[(2-furylmethyl)(methyl)amino]methyl}-5-methylbenzoic acid | 0.66 mmol, 170 mg | O1C(=CC=C1)CN(C)CC=1C=C(C(=O)O)C=C(C1)C | C15H17NO3
reactant | HBTU | 0.99 mmol, 375 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.99 mmol, 134 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.98 mmol, 0.334 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-furylmethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC(=C2)C)CN(C)CC=2OC=CC2)=O)C=C(C1)F | InChI=1S/C34H39F2N3O3.2ClH/c1-4-24-7-5-8-25(13-24)19-37-20-33(40)32(17-26-15-29(35)18-30(36)16-26)38-34(41)28-12-23(2)11-27(14-28)21-39(3)22-31-9-6-10-42-31;;/h5-16,18,32-33,37,40H,4,17,19-22H2,1-3H3,(H,38,41);2*1H/t32-,33+;;/m0../s1
